US04073900
C: 17-Acetoxy-9-bromo-6-chloro-11β-fluoro-1α,2α -methylene-4,6-pregnadiene-3,20-dione
At -30° C., 1.5 g. of 17-acetoxy-6-chloro-1α,2α -methylene-4,6,9(11)-pregnatriene-3,20 -dione and 1.5 g. of N-bromosuccinimide are added in succession to 7.5 ml. of a 70% solution of hydrogen fluoride in pyridine. After 1.5 hours, the solution is introduced into a mixture of ice water and 25% ammonia solution. The thus-precipitated product is vacuum-filtered, washed with water, dissolved in ethyl acetate, and dried over sodium sulfate. The crude product is recrystallized from acetone/hexane. Yield: 836 mg. of 17-acetoxy-9-bromo-6-chloro-11β-fluoro-1α,2α -methylene-4,6-pregnadiene-3,20 -dione; m.p. 189°-191° C. (under decomposition). UV: ε283 = 13,400.

reactant | 17-acetoxy-6-chloro-1α,2α -methylene-4,6,9(11)-pregnatriene-3,20 -dione | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC([C@H]5[C@@H]([C@]4(C)C3=CC[C@]12C)C5)=O)Cl | C24H27ClO4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hydrogen fluoride | F | FH
reactant | ammonia | N | H3N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 17-Acetoxy-9-bromo-6-chloro-11β-fluoro-1α,2α -methylene-4,6-pregnadiene-3,20-dione | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC([C@H]5[C@@H]([C@]4(C)[C@]3([C@H](C[C@]12C)F)Br)C5)=O)Cl | C24H27BrClFO4
